US08912180B2
To a solution of 1,1′-[2-(methylsulfanyl)pyrimidine-4,6-diyl]bis[2-(difluoromethyl)-1H-benzimidazole] (2 g) in N,N-dimethylacetamide (10 mL) were added tert-butyl (3S)-3-(hydroxymethyl)pyrrolidine-1-carboxylate (965 mg) and cesium carbonate (2.1 g), followed by stirring at 60° C. for 5 hours. After the completion of the reaction, to the reaction solution was added ice water and the precipitated solid was collected by filtration. After drying, the resultant was dissolved in dichloromethane and purified by silica gel column chromatography (hexane:ethyl acetate=90:10-65:35) to obtain tert-butyl (3S)-3-[({6-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-2-(methylsulfanyl)pyrimidin-4-yl}oxy)methyl]pyrrolidine-1-carboxylate (2.01 g).

reactant | 1,1′-[2-(methylsulfanyl)pyrimidine-4,6-diyl]bis[2-(difluoromethyl)-1H-benzimidazole] | 2 g | CSC1=NC(=CC(=N1)N1C(=NC2=C1C=CC=C2)C(F)F)N2C(=NC1=C2C=CC=C1)C(F)F | C21H14F4N6S
reactant | tert-butyl (3S)-3-(hydroxymethyl)pyrrolidine-1-carboxylate | 965 mg | OC[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | cesium carbonate | 2.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylacetamide | 10 mL | CN(C(C)=O)C | C4H9NO
product | tert-butyl (3S)-3-[({6-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-2-(methylsulfanyl)pyrimidin-4-yl}oxy)methyl]pyrrolidine-1-carboxylate | 2.01 g | FC(C1=NC2=C(N1C1=CC(=NC(=N1)SC)OC[C@@H]1CN(CC1)C(=O)OC(C)(C)C)C=CC=C2)F | C23H27F2N5O3S
